data/mechanism_extracts/Angew/10.1002_anie.201700837.json
{"doi": "10.1002_anie.201700837", "journal": "Angew", "is_review": false, "rxn_class_summary": "Brønsted acid catalyzed intramolecular [2+2] photocycloaddition of dithiane-substituted alkenes/alkynes under visible-light (405 nm) irradiation via a thionium ion excited state", "mechanism_family": ["cation_initiated", "biradical", "photoredox_combined"], "electrochemical_role": null, "key_intermediates": [{"name": "thionium ion 7 (from Brønsted acid protonation/ionization of dithiane)", "smiles": null, "role": "reactive"}, {"name": "ππ* singlet excited state of thionium ion", "smiles": null, "role": "transient"}, {"name": "triplet 1,4-biradical 8 (after ISC and ring closure)", "smiles": null, "role": "reactive"}], "electron_flow": "Brønsted acid catalyst ionizes the dithiane to a thionium ion 7, which absorbs visible light (405 nm) to populate a ππ* singlet state; ring closure onto the tethered alkene followed by intersystem crossing gives a triplet 1,4-biradical 8, whose free rotation around the central C–C bond before spin inversion and C–C bond formation explains loss of alkene stereochemistry to give cyclobutane products.", "rate_determining_step": null, "probe_reagents": [{"name": "Z-configured substrate 1j (stereochemical probe)", "smiles": null, "purpose": "other", "observation": "Stereo-unspecific [2+2]: cis/trans-6 obtained in 67:33 ratio, indicating loss of alkene geometry consistent with a triplet 1,4-biradical with free C–C rotation"}, {"name": "X-ray crystallography of 2g", "smiles": null, "purpose": "other", "observation": "Confirmed the relative configuration of the cyclobutane product"}, {"name": "UV/Vis absorption of thionium ion (Figure 1)", "smiles": null, "purpose": "redox_probe", "observation": "Strong absorption indicates a ππ* singlet (S1) is populated upon 405 nm excitation"}], "evidence_types_used": ["UV_vis", "isolation_of_intermediate", "product_isotope_distribution", "other"], "evidence_strength": "medium", "notes": "Alternative singlet [2+2] pathway is implicitly excluded because Z-1j reacts stereo-unspecifically (67:33 d.r.), favoring a triplet 1,4-biradical mechanism over a concerted singlet [2+2]. Dithiane group can subsequently be removed reductively (Raney-Ni → 4) or oxidatively (PhI(OOCCF3)2 → ketone 5/6)."}
